Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with a sig PMHx of HTN, HLD, T2DM who presents from his PCP
due to chest pain x2 weeks and TWI in lateral leads.

Three weeks prior to admission, he states he developed burning
upper chest pain after meals. The pain lasts ___ minutes and
resolved with burping, flatulence, ___. The pain is
only associated with meals. He also adds that he has had a 10 lb
weight loss in the 3 weeks, but denies any fevers or chills. He
denies any associated dyspnea, palpitations, presyncope or
syncope. 

He presented to his PCP ___ ___ due to these symptoms. His PCP 
had
previously checked an h.pylori stool antigen in ___ which
was positive, and had subsequently started him on quadruple
therapy, of which he only was given ___ medications. 

At his PCP appointment yesterday, and EKG was checked which
showed LVH and TWI in lateral leads, so he was sent to ___ after
receiving aspirin 324 mg en route. 
 
Past Medical History:
Prostate cancer s/p prostatectomy
GERD
H. pylori infection
Scalp lesion
DM2
HTN
HLD
 
Social History:
___
Family History:
Brother with MI
Mother with CVA, deceased
Father deceased
 
Physical ___:
ADMISSION PHYSICAL EXAM:
VS: T 98.9, HR 72, BP 160/72, RR 18, O2 100% RA
GENERAL: NAD
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
ABDOMEN: nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: A&Ox3, moving all 4 extremities with purpose
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
24 HR Data (last updated ___ @ 613)
Temp: 98.4 (Tm 98.4), BP: 112/64 (112-139/62-80), HR: 77
(69-83), RR: 16 (___), O2 sat: 97% (96-98), O2 delivery: RA,
Wt: 126.7 lb/57.47 kg  
GENERAL: NAD. Speaks some ___. Responds appropriately.
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM. Scar on right
scalp.
NECK: supple, no LAD, no JVD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs
LUNGS: CTAB, normal work of breathing.
ABDOMEN: nondistended, nontender to palpation in all four
quadrants, normal bowel sounds. No evidence of hepatomegaly.
EXTREMITIES: no cyanosis, clubbing, or edema
NEURO: A&Ox3, moving all 4 extremities
SKIN: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS:
CBC: WBC 12.4 Hgb 13.4 Hct 41.3 Plt 312
Coags: ___ 13.3 PTT 25.4 INR 1.2
Trop < 0.01
CK-MB 1
CK 108
Chem 7: Na 132 K 5.7 (hemolyzed) Cl 94 HCO3 26 AG 12 BUN 111 
Creat 1.0
Albumin 3.6

PERTINENT LABS:
Trop < 0.01 x 2
K 4.5 (on repeat labs during admission)

DISCHARGE LABS:
___ 07:15AM BLOOD WBC-5.8 RBC-4.60 Hgb-13.0* Hct-39.7* 
MCV-86 MCH-28.3 MCHC-32.7 RDW-12.9 RDWSD-40.0 Plt ___
___ 07:15AM BLOOD ___ PTT-26.5 ___
___ 07:45AM BLOOD Glucose-182* UreaN-13 Creat-1.0 Na-137 
K-4.3 Cl-97 HCO3-26 AnGap-14
___ 07:45AM BLOOD Calcium-9.3 Phos-4.2 Mg-2.0

PERTINENT IMAGING/STUDIES:

CXR ___:
Right perihilar mass with associated right upper lobe partial
collapse, highly concerning for neoplasm. Further assessment 
with
chest CT with IV contrast is recommended. 

CTA Chest ___:
1. No evidence of pulmonary embolism or acute aortic 
abnormality.
2. 6.7 x 4.9 x 6.4 cm right upper lobe mass concerning for
primary lung malignancy which completely obstructs right upper
lobe bronchus and results in associated partial collapse of the
right upper lobe.
3. Adjacent, nodular ___ opacities in the right upper
lobe likely represent postobstructive infection.
4. Mediastinal lymphadenopathy with borderline right hilar node
and prominent right supraclavicular node.
5. Numerous sclerotic osseous lesions compatible with known
prostate metastases.

CT Head ___
1. No evidence for intracranial metastatic disease.
2. No acute intracranial hemorrhage or infarction.
3. Mild background global parenchymal volume loss and evidence 
of chronic
small vessel ischemic disease.

___: MRI Brain w/ w/o Contrast:
1. No evidence for intracranial metastatic disease. 
2. No acute intracranial hemorrhage or infarction. 
3. Mild background global parenchymal volume loss and evidence 
of
chronic 
small vessel ischemic disease. 

___:
1. Severe fixed defect involving the inferior wall and apical 
portion of the myocardium.  2. Moderate hypokinesis of the
inferior wall and apex.  Left ventricular cavity size is mildly
enlarged, LVEF is 37%. 

 
Brief Hospital Course:
Mr. ___ is a ___ with a sig PMHx of HTN, HLD, T2DM who 
presents from his PCP with acute chest pain and new TWI in the 
lateral leads, found to have a right lung mass. 

ACUTE ISSUES:
==============
#Lung Mass: Mr. ___ presented with two weeks of bilateral 
burning chest pain and was noted to have CXR/CTA findings 
consistent with a 6.7 x 4.9 x 6.4cm right upper lobe mass; the 
etiology of his chest discomfort is likely related to 
compression from his lung mass or dyspepsia, as below. The lung 
mass was highly concerning for malignancy so a MRI brain was 
performed for metastasis evaluation and was negative. Due to the 
obstructive nature of the mass, a post-obstructive infection was 
considered; however, antibiotics were held given his hemodynamic 
stability. IP is planning on doing a lung biopsy tentatively on 
___ as outpatient. This needs to be scheduled. 

#Chest pain: As noted above, patient presented with burning 
chest pain, worse after eating, and was noted to have TWI in 
lateral leads. His troponins were negative and were consistent 
with atypical chest pain. He received full-dose aspirin en route 
to hospital, and a p-mibi was recommended as inpatient, which 
revealed a severe fixed defect involving the inferior wall and 
apical portion of the myocardium. It also showed a moderate 
hypokinesis of the inferior wall and apex. Findings consistent 
with likely old MI. He was continued on his home aspirin and 
statin. He was discharged on Metoprolol 12.5mg, which should be 
uptitrated as tolerated. His echo showed an ejection fraction of 
50%. 

# Dyspepsia
# H pylori positive: Mr. ___ had a with positive stool H. 
pylori test on ___ but finished 14 days of only three 
medications (PPI, bismuth, flagyl) and not tetracycline. There 
was apparent confusion regarding pharmacy filling medications, 
so he was unaware that there were four medications. Quadruple 
therapy was initiated while inpatient (without retesting) given 
high likelihood of untreated infection (___), to be completed 
___.

# Weight loss: Patient's weight loss is concerning for 
malignancy associated cachexia. Reportedly, he had a EGD and 
colonoscopy in ___ in ___ which was normal. His 
albumin level was normal.

CHRONIC ISSUES:
===============
# Hx of scalp lesion: Patient had a history of concern for basal 
cell carcinoma on scalp and underwent excision of scalp lesion 
on ___. The pathology revealed mixed syringocystadenoma 
papilliferum and basaloid neoplasm consistent with 
trichroblastoma, pigmented, ulcerated, with marked acute and 
chronic inflammation, with scale-crust. He was to follow up with 
surgery on ___ for complete excision with clear margins. 

#DM2: Patient's sugar levels are well-controlled on current 
meds. His Hgb A1c was 5.9 on ___. His home metformin was 
held, and he was maintained on insulin sliding scale while 
in-house.

#Hypertension: Patient was maintained on losartan-HCTZ 50-12.5mg 
(home dose) while in-house. 

# Tinea on back: Patient has prior documented tinea on back and 
at home was using ketoconazole shampoo and cream. He was 
asymptomatic, so this was held during admission.

# Hx of prostate cancer s/p prostatectomy: Treated in ___. PSA 
was 0 in ___. Hx of sclerotic metastases. Should continue 
to have PSA monitoring given the bone lesions noted on imaging. 

TRANSITIONAL ISSUES:
=====================
Discharge weight: 57.47
Discharge Cr: 1.0

[] Complete quadruple therapy for H. pylori given that prior 
infection was unlikely inadequately treated (___)
 -- PPI
 -- Bismuth
 -- Flagyl
 -- Tetracycline
[] Clarify goals with family. Note that patient has capacity and 
has right to know about diagnoses despite family's good 
intentions for not disclosing information to patient. Social 
support as needed.
[] Hematology/oncology follow-up
[] Patient found to have CAD based on stress testing but only 
showed fixed defect. He was discharged on Metoprolol succinate 
12.5mg, which can be titrated up as he tolerates, statin and 
aspirin.  
[] IP was unable to do lung biopsy while in-house. He should get 
called by clinic to schedule an appointment (likely ___. 

Greater than 30 minutes spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO QPM 
2. Aspirin 81 mg PO DAILY 
3. MetFORMIN XR (Glucophage XR) 750 mg PO DAILY 
4. Omeprazole 20 mg PO DAILY 
5. losartan-hydrochlorothiazide 50-12.5 mg oral DAILY 
6. Ketoconazole Shampoo 1 Appl TP ASDIR 
7. Ketoconazole 2%  1 Appl TP BID Back 

 
Discharge Medications:
1.  Bismuth Subsalicylate Chewable 524 mg PO TID Duration: 14 
Days 
RX *bismuth subsalicylate [Bismatrol] 262 mg 2 tablets by mouth 
three times a day Disp #*96 Tablet Refills:*0 
2.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  MetroNIDAZOLE 250 mg PO/NG QID Duration: 14 Days 
RX *metronidazole 250 mg 1 tablet(s) by mouth four times a day 
Disp #*43 Tablet Refills:*0 
4.  Tetracycline 500 mg PO QID Duration: 14 Days 
RX *tetracycline 500 mg 1 capsule(s) by mouth four times a day 
Disp #*42 Capsule Refills:*0 
5.  Omeprazole 20 mg PO BID Duration: 14 Days 
RX *omeprazole 20 mg 1 capsule(s) by mouth twice a day Disp #*21 
Capsule Refills:*0 
6.  Aspirin 81 mg PO DAILY  
7.  Ketoconazole 2%  1 Appl TP BID Back  
8.  Ketoconazole Shampoo 1 Appl TP ASDIR  
9.  losartan-hydrochlorothiazide 50-12.5 mg oral DAILY  
10.  MetFORMIN XR (Glucophage XR) 750 mg PO DAILY  
11.  Simvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
Lung mass
H. pylori infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

Thank you for coming to ___!

WHY WERE YOU ADMITTED?
- You were admitted for chest pain

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You had a chest x-ray and CT scan which showed a lung mass. We 
have to biopsy it to determine what it is.
- You had an ultrasound of your heart (echocardiogram) which 
showed one heart wall area was not working as well as the 
others.
- You had a stress ultrasound (also known as a nuclear scan) to 
look at how your heart responded when it had to work harder and 
this was reassuring. 
- We restarted your quadruple (4 medication) therapy for your H. 
pylori infection since it can be contributing to your 
discomfort. 

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- You will need to complete therapy for your H.pylori infection. 
You should take these medications until ___. 
- We are truly very sorry that we weren't able to complete the 
lung biopsy while you were in the hospital. Someone will call 
you to schedule the biopsy (likely ___. You will need to 
fast the night before the procedure. If you don't hear from 
someone by ___, please call ___. 

It was a pleasure taking care of you! We wish you all the best.

Your ___ Team
 
Followup Instructions:
___